US08497381B2
Step 4: [6-Ethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
To [6-ethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester (0.18 mmol) in MeOH (3 mL) was added aqueous lithium hydroxide (1N; 1 mL), and the reaction was stirred overnight at 70° C. After acidification with 1N aqueous HCl, the aqueous layer was separated and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the crude material was purified by preparative HPLC to give the desired product. M+H is 514.

reactant | [6-ethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | 0.18 mmol | C(C)OC(CC=1C=C(C(=CC1)OCC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C30H30F3NO5
reactant | lithium hydroxide | 1N, 1 mL | [OH-].[Li+]
solvent | MeOH | 3 mL | CO | CH4O
product | [6-Ethoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | C(C)OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C28H26F3NO5
